US09029545B2
Ethyl 4-amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylate
A mixture of ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate (260 mg, 0.790 mmol) (Description 31), tetrakis(triphenylphosphine)palladium(0) (45.6 mg, 0.039 mmol), sodium carbonate (167 mg, 1.580 mmol) and 3-pyridineboronic acid (116 mg, 0.948 mmol) in acetonitrile (3 mL) and water (0.75 μl) was heated at 70° C. under nitrogen, for 30 min. 1,2-Dimethoxyethane (2 mL) was added and the mixture was stirred at 80° C. for 18 h. The reaction mixture was cooled to RT and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in DCM, afforded the title compound (141 mg). LCMS (A) m/z: 328 [M+1]+, Rt 0.88 min (acidic), Rt 1.14 min (basic).

reactant | ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 0.790 mmol, 260 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)Br | C12H13BrN2O2S
reactant | sodium carbonate | 1.580 mmol, 167 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-pyridineboronic acid | 0.948 mmol, 116 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 1,2-Dimethoxyethane | 2 mL | COCCOC | C4H10O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 0.75 μl | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.039 mmol, 45.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-amino-3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridine-5-carboxylate | 141 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)C=2C=NC=CC2 | C17H17N3O2S
